US06503907B2
In analogy to example 5.1, 1-(4-Bromo-phenyl)-1H-indol-5-ol was treated with trifluoromethanesulfonic acid anhydride to yield Trifluoro-methanesulfonic acid 1-(4-bromo-phenyl)-1H-indol-5-yl ester as colorless viscous oil, MS: 420 (M).

reactant | 1-(4-Bromo-phenyl)-1H-indol-5-ol | BrC1=CC=C(C=C1)N1C=CC2=CC(=CC=C12)O | C14H10BrNO
reactant | trifluoromethanesulfonic acid anhydride | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
product | Trifluoro-methanesulfonic acid 1-(4-bromo-phenyl)-1H-indol-5-yl ester | BrC1=CC=C(C=C1)N1C=CC2=CC(=CC=C12)OS(=O)(=O)C(F)(F)F | C15H9BrF3NO3S
